US06281363B1
A solution of 0.94 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-(benzyl)carbamoyl-4-methylvalerohydrazide in 10 ml of dichloromethane was cooled to 0° C. under a nitrogen atmosphere and treated with 0.4 ml of pyridine and 0.174 ml of oxalyl chloride. The mixture was stirred at 0° C. for 2 hours and then allowed to warm to room temperature overnight. The mixture was washed in sequence with 2M aqueous hydrogen chloride, water, 5% aqueous sodium hydrogen carbonate, and saturated aqueous sodium chloride. The organic fraction was dried over anhydrous magnesium sulphate and evaporated. The solid residue was recrystallized from ethyl acetate to give 0.69 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-(benzyl)carbamoyl-4-methylvalerohydrazide | 0.94 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC(NCC1=CC=CC=C1)=O)CC(C)C | C29H39N3O4
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.174 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-4-methylvaleramide | 0.69 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(N(C(C1=O)=O)CC1=CC=CC=C1)=O)CC(C)C | C31H37N3O6
